Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
pravastatin / simvastatin / Livalo / mirtazapine / nicotine
 
Attending: ___.
 
Chief Complaint:
planned admission for EUS-FNA
 
Major Surgical or Invasive Procedure:
___ - EUS with biopsy of ampullary mass

 
History of Present Illness:
Mrs ___ is a ___ with PMH of EtOH cirrhosis, CAD (s/p stent 
in ___, and diagnosis of recent amupllary mass on ERCP who 
presents for planned EUS-FNA. She originally presented to her 
PCP several months ago with symptoms of greasy stools, bloating, 
weight fluctuations, and change in stool habits (alternating 
constipation and diarrhea). She was found to have 
hyperbilirubinemia on outpatient labs, and underwent subsequent 
colonoscopy and ultrasound. She had a follow-up MRI with CBD 
dilation to 1.1cm without mass or stone. Per patient at the same 
time as the rising bilirubin, she noted the change in stool 
consistency and bowel habits. ERCP on ___ showed ampullary 
mass, stent placed, normal mucosa pathology of ampulla, but 
atypical CBD brushings. Her abdominal CT scan shows normal 
pancreas. Labs from ___ showed INR 2.1, platelets 52.  She 
requires admission for FFP infusion prior to EUS. 

She was a direct admit to the floor, and as such has no ED 
course. She reported the history I described above, and 
otherwise denied any symptoms. She does not have nausea, 
vomiting, abdominal pain, or bloody stools.

ROS: 10 point ROS negative except as otherwise noted above in 
HPI
 
Past Medical History:
EtOH cirrhosis; per patient no varices on EGD
-- Followed by GI at ___: Dr. ___ s/p stent placement in ___
-- followed by Cardiology: Dr. ___ at ___ ___
Thyroid nodule
Urinary incontinence
Migraine

 
Social History:
___
Family History:
No history of malignancy in 1st degree family relatives

 
Physical Exam:
Admission Physical Exam:
GENERAL: pleasant middle-aged woman, thin, well-groomed, 
jaundiced
HEENT: AT/NC, EOMI, PERRL, scleral icterus. oropharynx clear, 
MMM,, tan good dentition
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no pedal edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: no asterixis, no pronator drift, CN II-XII intact, moving 
all extremities  
SKIN: no palmar erythema, no spider angiomata, warm and well 
perfused, no excoriations or lesions, no rashes  

Discharge Physical Exam:
GENERAL: pleasant middle-aged woman, thin, well-groomed, 
jaundiced
HEENT: AT/NC, oropharynx clear, MMM, good dentition
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, breathing comfortably without use of accessory 
muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no pedal edema, 2+ DP pulses bilaterally  
NEURO: no asterixis, no pronator drift, CN II-XII intact, moving 
all extremities  
SKIN: no palmar erythema, no spider angiomata, warm and well 
perfused, no excoriations or lesions, no rashes  

 
Pertinent Results:
Admission labs:
----------------
___ 04:30PM BLOOD WBC-5.2# RBC-3.01* Hgb-11.1* Hct-32.5* 
MCV-108* MCH-36.9* MCHC-34.1 RDW-14.8 Plt Ct-74*
___ 04:30PM BLOOD ___ PTT-44.2* ___
___ 04:30PM BLOOD Glucose-125* UreaN-10 Creat-0.4 Na-134 
K-3.8 Cl-102 HCO3-22 AnGap-14
___ 04:30PM BLOOD ALT-32 AST-69* LD(LDH)-312* AlkPhos-135* 
TotBili-7.6*
___ 04:30PM BLOOD Albumin-3.0* Calcium-8.9 Phos-3.6 Mg-1.6

Discharge labs:
----------------
___ 08:00AM BLOOD WBC-3.8* RBC-2.93* Hgb-11.3* Hct-31.2* 
MCV-106* MCH-38.5* MCHC-36.1* RDW-14.6 Plt Ct-74*
___ 08:00AM BLOOD ___ PTT-42.7* ___
___ 08:00AM BLOOD Glucose-104* UreaN-8 Creat-0.4 Na-138 
K-3.6 Cl-105 HCO3-24 AnGap-13
___ 08:00AM BLOOD ALT-34 AST-64* LD(LDH)-277* AlkPhos-95 
TotBili-7.3*
___ 08:00AM BLOOD Albumin-2.8* Calcium-8.9 Phos-4.3 Mg-1.4*

___ EUS-FNA:
-----------------
-EUS was performed using a linear echoendoscope at ___ MHz 
frequency: The head and uncinate pancreas were imaged from the 
duodenal bulb and the second / third duodenum. The body and tail 
[partially] were imaged from the gastric body and fundus. 
-Pancreas parenchyma: There was lobularity and mild hyperechoic 
strands noted throughout the pancreas. The changes did not meet 
___ criteria for chronic pancreatitis. 
-Pancreas duct: The pancreas duct measured 3 mm in maximum 
diameter in the head of the pancreas and 1.7 mm in maximum 
diameter in the body of the pancreas. The duct was normal in 
echotexture and contour. No intra-ductal stones were noted. No 
dilated side-branches were noted. 
-Bile duct: The bile duct was imaged at the level of the 
porta-hepatis, head of the pancreas and ampulla. The maximum 
diameter of the bile duct was 8 mm. A plastic stent was seen on 
EUS within the bile duct. The distal bile duct wall near the 
ampulla was thickened. This could be secondary to reactive 
changes from stent placement versus a neoplastic process. There 
was sludge noted in the bile duct. (cytology) 
-The ampulla was visualized endoscopically with both the 
echoendoscope as well as a duodenoscope. It appeared markedly 
prominent with the possibility of an intra-ampullary lesion. 
(biopsy)

Studies and pathology from prior admission:
===========================================
PATHOLOGY:
___ CBD brushings: rare highly atypical epithelial cells in 
a background of reactive glandular epithelial cells

___ pathology of papilla biopsy: Duodenal type mucosa with a 
few dilated glands. No evidence of malignancy 

ERCP ___:
A mass-like adenomatous appearance papilla was seen. Forceps 
biopsies were performed from the ampulla for histology. 
Scout film was normal.
The bile duct was deeply cannulated with the sphincterotome.
Contrast was injected and there was brisk flow through the 
ducts. Contrast extended to the entire biliary tree.
There was a 1cm long stricture of the distal CBD and a 8mm long 
stricture of the distal PD.
Double duct sign was noted, suggestive of neoplasm.
The CBD was 15mm in diameter. No filling defects were 
identified.
The PD was 4 mm in diameter. No filling defects were identified.
The left and right hepatic ducts were mildly dilated.
A biliary sphincterotomy was not made due to elevated INR (1.9). 

 
IMAGING:
___ CT abd/pelvis:
-No periampullary lesion is visualized. No significant main 
pancreatic ductal dilatation, which continues to the ampullary 
region. Plastic CBD stent in place with pneumobilia. 
-Generalized stranding of the abdomen and pelvis is noted, which 
may be secondary to portal hypertension rather than soft tissue 
tumor infiltration. Splenorenal shunt. 
-No focal hepatic lesions. 
-Trace right pleural effusion. 

 
Brief Hospital Course:
Mrs ___ is a ___ yo female with a history of CAD s/p stent 
in ___, EtOH cirrhosis, with recent hyperbilirubinemia who was 
found to have ampullary mass concerning for malignancy who 
presents for EUS-FNA and further evaluation. She is known to 
ERCP team and Pancreatic ___ clinic. She was 
asymptomatic on this admission, underwent EUS-FNA on ___ without 
complication, and was discharged home after the procedure with 
plans to follow in clinic with Dr ___.

# Biliary obstruction. Patient is being followed by ERCP and 
pancreatic ___ clinic for this recently found 
ampullary mass concering for malignancy based on imaging and 
subsequent biopsies and brushings. Bilirubin had trended down 
during/after prior admission. Monitored LFTs, CBC, coags, and 
gave FFP 30min prior to transfer to ___ for procedure. 
Platelets > 50 and did not require platelet transfusion. During 
her EUS cytology and biopsies were taken from the bile duct and 
the ampulla mass.

# EtOH cirrhosis. Evidence of coagulopathy on labs (INR 1.9), 
thrombocytopenia, and abnormal LFTs c/w known cirrhosis. Follows 
with an outpatient hepatologist. No e/o hepatic encephalopathy 
on exam. Continue home thiamine, rifaximin, spironolactone, 
propranolol.

CHRONIC MEDICAL PROBLEMS:
# CAD s/p stent: Patient not on statin due to allergies, and 
does not appear to be on aspirin. Left message with PCP to 
clarify.

# Anxiety/depression: Fluoxetine recently stopped by PCP due to 
side effects (vaginal discomfort per patient). Continued 
clonazepam 1mg qhs.

# Urinary incontinence: continued tolterodine.

TRANSITIONAL ISSUES:
[] Follow up with Dr ___ [___] for 
pathology results within 7 days.

# EMERGENCY CONTACT HCP: husband ___, ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Bumetanide 0.5 mg PO DAILY 
2. ClonazePAM 1 mg PO QHS anxiety/insomnia 
3. FoLIC Acid 1 mg PO DAILY 
4. Nicotine Patch 14 mg TD DAILY 
5. Ondansetron 4 mg PO Q8H:PRN nausea 
6. Propranolol 10 mg PO BID 
7. Rifaximin 550 mg PO BID 
8. Spironolactone 25 mg PO BID 
9. Thiamine 100 mg PO DAILY 
10. Tolterodine 2 mg PO BID 
11. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
12. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Bumetanide 0.5 mg PO DAILY 
2. ClonazePAM 1 mg PO QHS anxiety/insomnia 
3. FoLIC Acid 1 mg PO DAILY 
4. Nicotine Patch 14 mg TD DAILY 
5. Propranolol 10 mg PO BID 
6. Rifaximin 550 mg PO BID 
7. Spironolactone 25 mg PO BID 
8. Thiamine 100 mg PO DAILY 
9. Tolterodine 2 mg PO BID 
10. Vitamin D 1000 UNIT PO DAILY 
11. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
12. Ondansetron 4 mg PO Q8H:PRN nausea 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary: 
ampulla mass

secondary: 
cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

___ was a pleasure caring for you at ___. You were admitted for 
an endoscopic ultrasound with biopsy. This was performed because 
of the previously seen mass in the ampulla of vater, a part of 
your intestines. 

Please call ___ if you have any abdominal pain or 
fevers and ask for the ERCP fellow on call. 

Please call Dr. ___ ___ in 7 days for 
the pathology results. 

All the best, 
Your ___ Team
 
Followup Instructions:
___